US05334716
A mixture of 1-[3-fluoro-4-[1-(methoxymethoxy)pentyl]phenyl]-2-methylpropanol (104 mg), acetic anhydride (66 mg) and N,N-dimethylaminopyridine (2 mg) was stirred at room temperature for 1 hour. The mixture was poured into ice water and extracted with ethyl acetate. The organic layer was washed with water and brine, dried over magnesium sulfate and concentrated. The residue was chromatographed on silica gel column eluting with a mixture of hexane and ethyl acetate (85:15) to give 1-[3-fluoro-4-[1-(methoxymethoxy)pentyl]phenyl]-2-methylpropyl acetate (113 mg) as an oil.

reactant | 1-[3-fluoro-4-[1-(methoxymethoxy)pentyl]phenyl]-2-methylpropanol | 104 mg | FC=1C=C(C=CC1C(CCCC)OCOC)C(C(C)C)O | C17H27FO3
reactant | acetic anhydride | 66 mg | C(C)(=O)OC(C)=O | C4H6O3
product | 1-[3-fluoro-4-[1-(methoxymethoxy)pentyl]phenyl]-2-methylpropyl acetate | 113 mg | C(C)(=O)OC(C(C)C)C1=CC(=C(C=C1)C(CCCC)OCOC)F | C19H29FO4
